US06627644B2
N-{7-[(1-Methanesulfonyl-piperidin-4-ylmethyl)-propyl-amino]-5,6,7,8-tetrahydro-naphthalen-2-yl}-isobutyramide
To a solution of N-(1-methanesulfonyl-piperidin-4-ylmethyl)-N-propyl-1,2,3,4-tetrahydro-naphthalene-2,7-diamine (200 μL of a 0.25 M solution in dichloromethane, 50 μmole) was added 220 μL of a 0.25 M solution of isobutyryl chloride in dichloromethane and 30 μL of DIEA. The solution was allowed to stir for 72 h at 25° C. under N2 and was then concentrated in vacuo. The final product was isolated by preparative RPHPLC (YMC Combiprep ODS-A column, 10-90% acetonitrile: water (0.1% TFA)) to afford N-{7-[(1-methanesulfonyl-piperidin-4-ylmethyl)-propyl-amino]-5,6,7,8-tetrahydro-naphthalen-2-yl}-isobutyramide (10.4 mg) 86, [M+H]+=450.

reactant | N-(1-methanesulfonyl-piperidin-4-ylmethyl)-N-propyl-1,2,3,4-tetrahydro-naphthalene-2,7-diamine | CS(=O)(=O)N1CCC(CC1)CN(C1CC2=CC(=CC=C2CC1)N)CCC | C20H33N3O2S
reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | DIEA | 30 μL | CCN(C(C)C)C(C)C | C8H19N
product | N-{7-[(1-Methanesulfonyl-piperidin-4-ylmethyl)-propyl-amino]-5,6,7,8-tetrahydro-naphthalen-2-yl}-isobutyramide | CS(=O)(=O)N1CCC(CC1)CN(C1CCC=2C=CC(=CC2C1)NC(C(C)C)=O)CCC | C24H39N3O3S
